### PR TITLE
`mem_filter_univ` and `with` notation for sums

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
The first commit uses `Finset.mem_filter_univ` (https://github.com/leanprover-community/mathlib4/pull/27148) throughout the project. The second uses the (fairly) new `with` notation for sums.

### CODE REVIEW

File: Carleson/Discrete/ForestUnion.lean [hunk 1]
```diff
@@ -748,8 +748,7 @@ lemma lintegral_carlesonSum_forest
       have := forest_disjoint (X := X) (𝔘₄_subset_𝔘₃ ha) (𝔘₄_subset_𝔘₃ hb) hab
       exact disjoint_iff_forall_ne.1 this hx hy
     congr with p
-    simp only [mem_iUnion, exists_prop, Finset.mem_filter, Finset.mem_univ, true_and, forest, 𝔉]
-    exact Iff.rfl
+    simp_rw [mem_iUnion, exists_prop, Finset.mem_filter_univ]; rfl
```
Comment (grunweg) [inline Carleson/Discrete/ForestUnion.lean]: Re-adding that rfl feels like a regression to me. Can you revert that part, please?

File: Carleson/TileStructure.lean [hunk 2]
```diff
@@ -462,12 +462,12 @@ lemma stackSize_le_one_of_pairwiseDisjoint {C : Set (𝔓 X)} {x : X}
     · simp [pC]
     · intro b hb hbp
       simp only [indicator_apply_eq_zero, Pi.one_apply, one_ne_zero, imp_false]
-      simp only [Finset.mem_filter, Finset.mem_univ, true_and] at hb
+      classical rw [Finset.mem_filter_univ] at hb
```
Comment (grunweg) [inline Carleson/TileStructure.lean]: Do you need the Classical? You didn't before.

File: Carleson/ToMathlib/HardyLittlewood.lean [hunk 3]
```diff
@@ -607,6 +607,20 @@ lemma hasStrongType_MB_finite [BorelSpace X] [NormedSpace ℝ E] [MeasurableSpac
 /-- The constant factor in the statement that `M_{𝓑, p}` has strong type. -/
 irreducible_def C2_0_6 (A p₁ p₂ : ℝ≥0) : ℝ≥0 := CMB A (p₂ / p₁) ^ (p₁⁻¹ : ℝ)
 
+lemma C2_0_6_defaultA_one_le {a : ℕ} {q : ℝ≥0} (hq : 1 < q) :
```
Comment (grunweg) [inline Carleson/ToMathlib/HardyLittlewood.lean]: Can you split this into a second PR? (I'd be happy to merge just the changes in the PR description, but need more time to review this one. This is inside ToMathlib, so standards are higher.)

File: Carleson/Antichain/AntichainTileCount.lean [hunk 4]
```diff
@@ -72,20 +72,17 @@ lemma tile_reach {ϑ : Θ X} {N : ℕ} {p p' : 𝔓 X} (hp : dist_(p) (𝒬 p) 
...
-      _ = 2^N := by
-        rw [← zpow_natCast, ← zpow_add₀ two_ne_zero]
-        simp only [Int.reduceNeg, neg_mul, Nat.cast_add, Nat.cast_mul, Nat.cast_ofNat,
-          sub_add_add_cancel, neg_add_cancel_left, zpow_natCast]
+    calc
+      _ ≤ 2 ^ (-5 * a - 2 : ℤ) * dist_{𝔠 p, 4 * D ^ 𝔰 p'} (𝒬 p') o' := hle
+      _ < 2 ^ (-5 * a - 2 : ℤ) * 2 ^ (5 * a + N + 2) := (mul_lt_mul_left (by positivity)).mpr hlt2
+      _ = _ := by rw [← zpow_natCast, ← zpow_natCast, ← zpow_add₀ two_ne_zero]; congr 1; omega
   -- 6.3.12
-  have hp'3 : dist_(p) (𝒬 p') o' < 2^N := by
```
Comment (grunweg) [inline Carleson/Antichain/AntichainTileCount.lean]: You make a lot of changes to this file, most of them orthogonal to the PR description. If you revert those from this PR, I'm happy to approve.

**Review by grunweg — COMMENTED** [review]
Thanks for doing this clean-up! I took a look - and almost all of it is just what you say and looks good. I noticed two small nits (should be easy to fix).
I also have two comments about mixing in unrelated changes. The minimum I'd insist on is an updated PR description; you'll have me merge this faster if you move the other clean-up to a separate PR.

File: Carleson/Antichain/AntichainTileCount.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Carleson/Antichain/AntichainTileCount.lean]: OK, I believe everything should be done now.
